US05348954
a) 2,5-Bis-ethoxycarbonyl-3-hydroxypyrrolidine
2,5-Bis-ethoxycarbonyl-3,4-dihydroxypyrrol (1.0 g, 4.1 mmol) was dissolved in ethanolic H2SO4 (3%) (50 ml). Rhodium on carbon (5 %) (1.0 g) was added and the reduction reaction was allowed to run under hydrogen (9.4 bar) at 80° C. overnight. The catalyst was filtered off and the solvent evaporated. The reaction mixture was dissolved in water, the pH was adjusted with Na2CO3, and extracted with dichloromethane. The crude mixture was chromatographed on silica and the title product was isolated. Yield: 0.2 g (21 %), FAB-MS: 232 (M+1).

reactant | 2,5-Bis-ethoxycarbonyl-3,4-dihydroxypyrrol | 4.1 mmol, 1.0 g | C(C)OC(=O)C=1NC(=C(C1O)O)C(=O)OCC | C10H13NO6
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
catalyst | Rhodium on carbon | 1.0 g | [Rh] | Rh
product | 2,5-Bis-ethoxycarbonyl-3-hydroxypyrrolidine | C(C)OC(=O)C1NC(CC1O)C(=O)OCC | C10H17NO5
